US08022062B2
3-tert-Butoxycarbonyl-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Dissolve 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (5 g, 19.3 mmol) in 7N ammonia in methanol (50 mL) and stir at ambient temperature for 16 h. Concentrate the reaction mixture to an oil and use without further purification. Dissolve the residue in a solvent mixture consisting of methanol (20 mL), DCM (10 mL) and water (100 mL), and add potassium carbonate (5 g) and di-tert-butyl-dicarbonate (5.05 g, 23.2 mmol). Stir the reaction mixture at ambient temperature for 16 h and concentrate in vacuo. Extract the aqueous phase with DCM, dry over Na2SO4, filter and concentrate. Use the residue without further purification. Dissolve the material in a mixture of DCM (300 mL) and pyridine (30 mL) and cool in an ice bath. Add dropwise to the stirred solution trifluoromethanesulfonic anhydride (5.84 mL, 34.7 mmol) and stir the reaction mixture for 2 h at ambient temperature. Dilute the reaction mixture with DCM (400 mL) and wash with 2.5N aqueous HCl. Dry the organic fraction over Na2SO4, filter and concentrate to give the title compound as a yellow solid (6.1 g, 80%). MS (ES+) m/z: 396 (M+H)+.

reactant | 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 19.3 mmol, 5 g | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl-dicarbonate | 23.2 mmol, 5.05 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | trifluoromethanesulfonic anhydride | 34.7 mmol, 5.84 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | ammonia | 7N | N | H3N
solvent | methanol | 50 mL | CO | CH4O
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-Butoxycarbonyl-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 6.1 g, 80% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C16H20F3NO5S
